US06359134B1
2-(4-Pyridyl)-4-thiazolecarboxylic acid
To a solution of the obtained ethyl 2-(4-pyridyl)-4-thiazolecarboxylate (1.5 g) in ethanol (10 ml) was added 1 N sodium hydroxide solution (10 ml), and the solution was stirred at room temperature for 2 hours. The reaction solution was concentrated and the residue was dissolved in water, to which was added 1 N hydrochloric acid (10 ml). The precipitate was filtered, washed with water and dried to give the title compound (1.264 g).

reactant | ethyl 2-(4-pyridyl)-4-thiazolecarboxylate | 1.5 g | N1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4-Pyridyl)-4-thiazolecarboxylic acid | 1.264 g | N1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
